US08835428B2
Step 2: 3-{-4-[3-(4-Fluoro-phenyl)-ureido]-phenyl}-isoxazole-5-carboxylic acid
The title compound was prepared from 3-{4-[3-(4-fluoro-phenyl)-ureido]-phenyl}-isoxazole-5-carboxylic acid ethyl ester using the procedure as set forth in Example 8 and was obtained in 95.2% yield. Mass (ES+): 342 (M++1); IR (KBr): 3307, 3004 (br), 2871 (br), 1711, 1640, 1601, 1546; 1H NMR (DMSO-d6) δ: 7.08 (t, 2H), 7.43 (m, 2H), 7.49 (d, 2H), 7.67 (s, 1H), 7.84 (d, 2H), 8.77 (s, 1H), 8.93 (s, 1H).

reactant | 3-{4-[3-(4-fluoro-phenyl)-ureido]-phenyl}-isoxazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(=NO1)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F | C19H16FN3O4
reactant | KBr | [K+].[Br-]
product | 3-{-4-[3-(4-Fluoro-phenyl)-ureido]-phenyl}-isoxazole-5-carboxylic acid | 95.2% yield | FC1=CC=C(C=C1)NC(NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)O)=O | C17H12FN3O4
